Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]1[C:5]([H:6])([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],1.16128667134
[H:15].[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.3221145873400015
[C:1][C:2](=[O:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1][C:2](=[O:3])[O:4][C:5]([H:6])[H:7].[C:8]([H:9])([H:10])[H:11],4.04750367792
[O:1][C:2]1([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[O:1]=[C:2]([H:3])[C:13]([C:10]([C:7]([C:4]([H:5])[H:6])([H:8])[H:9])([H:11])[H:12])([H:14])[H:15],0.19999998269
[H:1][C:2][O:3][C:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][H:8],4.15907186878
[C:1]=[C:2]([H:3])[C:4]([C:5]#[C:6])[O:7][H:8]>>[C:1]#[C:2][H:3].[C:4]([C:5]#[C:6])[O:7][H:8],3.59425801102
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])[H:9].[O:10][H:11]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-5.51158636219
[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],-4.31072912235
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11][C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],-4.82952987448
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.2144221681400005
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1].[O:2]=[C:3]([C:4]([H:5])[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],3.12262190328
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])=[C:5][H:6],6.11263006436
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[O:12][H:13].[H:11],3.97257358937
[H:1][O:2][C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-2.6803916717900003
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]1([H:8])[C:9][C:10]1[H:11]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:10]([C:9]#[C:7][H:8])[H:11],-2.02558582574
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]=[O:3],1.32425262285
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:3]([O:4][H:5])#[C:6][H:7].[H:1][C:2]=[C:8]([H:9])[H:10],2.35027023998
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:5],4.39350040193
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]=[C:11]([H:12])[H:13].[O:7]=[C:8]([H:9])[H:10],1.28212566627
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[O:15][H:16],-3.7221663521
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])([H:7])=[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3][H:4],0.857024080449
[H:1][C:2]=[C:3]([O:4][H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12]>>[H:1][C:2]#[C:3][C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12].[O:4][H:5],3.11660168761
[H:1].[O:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-2.0288315604900005
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1[C:9]([H:10])([H:11])[H:12],0.3594716384
[C:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1].[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][H:11],5.6243937779
[H:1][O:2][C:3]#[C:4][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[O:5][H:6]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-3.2898478425
[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10][O:11][H:12]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][O:11][H:12],-3.96308227376
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]#[C:10][H:11].[H:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-1.93848324972
[C:1][C@:2]1([C:3]([H:4])([H:5])[H:6])[O:7][C:8]1([H:9])[H:10]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[O:7][C:8]([H:9])[H:10],0.4600343492199999
